US07544697B2
2-Aminophenyl boronic acid hydrochloride (693 mg, 4.00 mmol) and potassium phosphate tribasic (2.12 g, 10.0 mmol) were added sequentially to a solution of 5-(3-benzenesulfonylpropyl)4-bromo-1-butyl-1H-pyrazole-3-carbonitrile (550 mg, 1.30 mmol) in 15 mL of toluene in a pressure tube. Nitrogen was bubbled through the resultant slurry for 15 minutes. Tris(dibenzylideneacetone)dipalladium(0) (104 mg, 0.10 mmol), bis[(2-diphenylphosphino)phenyl]ether (65 mg, 0.12 mmol), and 4 angstrom molecular sieves were then added to the reaction mixture. The pressure tube was sealed and heated in a 110° C. oil bath. After 20 hours, the reaction mixture was cooled to ambient temperature, diluted with ethyl acetate and filtered through CELITE filter aid. The filtrate was diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate. The aqueous layer was extracted with additional ethyl acetate and the combined organic layers were washed with brine, dried over magnesium sulfate, filtered, and concentrated to an orange oil. Purification via flash column chromatography on silica gel (eluting with hexane:ethyl acetate in a gradient from 2:1 to 2:3) afforded 550 mg of 4-(2-aminophenyl)-5-(3-benzenesulfonylpropyl)-1-butyl-1H-pyrazole-3-carbonitrile as a thick pale yellow oil.

reactant | 2-Aminophenyl boronic acid hydrochloride | 4.00 mmol, 693 mg | Cl.NC1=C(C=CC=C1)B(O)O
reactant | potassium phosphate tribasic | 10.0 mmol, 2.12 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 5-(3-benzenesulfonylpropyl)4-bromo-1-butyl-1H-pyrazole-3-carbonitrile | 1.30 mmol, 550 mg | C1(=CC=CC=C1)S(=O)(=O)CCCC1=C(C(=NN1CCCC)C#N)Br | C17H20BrN3O2S
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.10 mmol, 104 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(2-aminophenyl)-5-(3-benzenesulfonylpropyl)-1-butyl-1H-pyrazole-3-carbonitrile | 550 mg | NC1=C(C=CC=C1)C=1C(=NN(C1CCCS(=O)(=O)C1=CC=CC=C1)CCCC)C#N | C23H26N4O2S
